US04182776
11-Phenoxy-1-undecanol O-methanesulfonate
To a solution of 10.6 g of 11-phenoxy-1-undecanol, 200 ml of dichloromethane and 8.4 ml of triethylamine chilled to -8° C. in an ice-salt bath is added dropwise over 10 minutes, a solution of 3.38 ml of methanesulfonyl chloride in 10 ml of dichloromethane. The solution is stirred for 30 minutes at -8° C., washed with 150 ml of ice-cold water, 75 ml of cold 10% hydrochloric acid, 75 ml of cold saturated sodium bicarbonate, 75 ml of cold saturated sodium chloride solution and dried over magnesium sulfate. The solvent is removed in vacuo to give off-white crystals, mp 54°-58° C.

reactant | 11-phenoxy-1-undecanol | 10.6 g | O(C1=CC=CC=C1)CCCCCCCCCCCO | C17H28O2
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.38 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 11-Phenoxy-1-undecanol O-methanesulfonate | CS(=O)(=O)OCCCCCCCCCCCOC1=CC=CC=C1 | C18H30O4S
